US09126951B2
Synthesis of 1-(3-(7-chloroimidazo[1,2-a]pyridin-3-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea
To a solution of 3-(7-chloroimidazo[1,2-a]pyridin-3-yl)aniline (0.15 mmol) in THF (1.5 mL) was added 4-nitrophenyl carbonochloridate (30 mg, 0.15 mmol) and DIEA (0.036 mL, 0.225 mmol). The mixture was heated at 60° C. for 6 h. To the crude carbamate was added DIEA (0.036 mL, 0.225 mmol) and 2,2,2-trifluoroethan-1-amine (0.014 mL, 0.18 mmol) and the solution was heated at 60° C. overnight. The reaction mixture was diluted with EtOAc and water. The separated organic layer was dried with sodium sulfate, filtered and concentrated. The crude mixture was purified by flash chromatography (0-6% MeOH/DCM) to give the title compound (38 mg, 69% yield). MS (ES+) C16H12ClF3N4O requires: 368. Found: 369 [M+H]+.

reactant | 3-(7-chloroimidazo[1,2-a]pyridin-3-yl)aniline | 0.15 mmol | ClC1=CC=2N(C=C1)C(=CN2)C=2C=C(N)C=CC2 | C13H10ClN3
reactant | 4-nitrophenyl carbonochloridate | 0.15 mmol, 30 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | DIEA | 0.225 mmol, 0.036 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | carbamate | C(N)([O-])=O
reactant | DIEA | 0.225 mmol, 0.036 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2,2-trifluoroethan-1-amine | 0.18 mmol, 0.014 mL | FC(CN)(F)F | C2H4F3N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1-(3-(7-chloroimidazo[1,2-a]pyridin-3-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea | 38 mg, 69% yield | ClC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C16H12ClF3N4O
